* SPDX-License-Identifier: Apache-2.0
* Experimental GF180 3.3 V CML transmitter with symmetric thermometer loads.
.subckt serdes_tx INP INN OUTP OUTN VBIAS LOAD_EN0_N LOAD_EN1_N LOAD_EN2_N LOAD_EN3_N VDD VSS
XBASE_P VDD OUTP VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P0 OUTP P0 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P1 OUTP P1 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P2 OUTP P2 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P3 OUTP P3 VSS ppolyf_u r_width=1u r_length=0.8u
XSW_P0 P0 LOAD_EN0_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P1 P1 LOAD_EN1_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P2 P2 LOAD_EN2_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P3 P3 LOAD_EN3_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XBASE_N VDD OUTN VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N0 OUTN N0 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N1 OUTN N1 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N2 OUTN N2 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N3 OUTN N3 VSS ppolyf_u r_width=1u r_length=0.8u
XSW_N0 N0 LOAD_EN0_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N1 N1 LOAD_EN1_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N2 N2 LOAD_EN2_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N3 N3 LOAD_EN3_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
* Each 200 um effective device is implemented as ten parallel 20 um fingers.
XDIFF_P OUTP INP TAIL VSS nfet_03v3 w=20u l=0.28u m=10
XDIFF_N OUTN INN TAIL VSS nfet_03v3 w=20u l=0.28u m=10
XTAIL TAIL VBIAS VSS VSS nfet_03v3 w=20u l=0.5u m=10
.ends serdes_tx
